2199-08-16 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2199-8-15**] 06:50 PM
   Placed in IR [**2199-8-14**]
 DIALYSIS CATHETER - START [**2199-8-15**] 06:50 PM
   [**2199-8-15**]:
   - urine successfully alkalinized with pH > 7.5.  Stopped bicarb drip.
   - continued cvvh
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Unknown;
   Morphine Hcl
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-16**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 74 (69 - 113) bpm
   BP: 147/79(96) {107/66(76) - 168/107(121)} mmHg
   RR: 16 (8 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 53 kg
   Height: 61 Inch
             Total In:
                                                                    755 mL
                                                                    701 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                    755 mL
                                                                    641 mL
   Blood products:
   Total out:
                                                                    672 mL
                                                                  1,008 mL
   Urine:
                                                                    400 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     83 mL
                                                                   -307 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   VBG: 7.48/43/35/28/
   Physical Examination
   GEN: Sitting in bed, poor eye-contact, NAD
   [**Name2 (NI) 1824**]: PERRL, [**Name (NI) **] but with several beats of nystagmus with gaze in
   both directions, O/P clear
   Neck: supple, no LAD, no JVD
   CV: RRR no m/g/r
   PULM: CTAB no w/r/r
   ABD: S/NT/ND normoactive bowel sounds
   EXT: no c/c/e, fistula in LUE, no palpable thrill
   Neuro: AAOx3, CN II-XII intact, normal sensory and motor exam
   SKIN: mild alopecia
   Labs / Radiology
   522
   8
   88 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   5 mg/dL
   105 mEq/L
   143 mEq/L
   24.7 %
   8
        [image002.jpg]
                             [**2199-8-15**]  07:45 PM
                             [**2199-8-15**]  10:00 PM
                             [**2199-8-16**]  03:00 AM
   Hct
   24.7
   Cr
   0.8
   Glucose
   119
   88
   Other labs: Ca++:7.8 mg/dL, Mg++:1.4 mg/dL, PO4:2.0 mg/dL
   ALT/AST: 52/52, LDH 310, AP/T Bili: 80/0.4
   Free Ca: 1.06
   DIPSTICK URINALYSIS
                                    Blood
                                   Nitrite
                                   Protein
                                   Glucose
                                   Ketone
                                   Bilirub
                                   Urobiln
                                     pH
                                    Leuks
   [1][**2199-8-16**] 04:20AM
                                     TR
                                     NEG
                                     30
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                    8.5*
                                     NEG
   MTX
   [2][**2199-8-16**] 03:00AM
                                   2.61[1]
   [3][**2199-8-15**] 05:45PM
                                   7.2[1]
   No Images/Micro
   Assessment and Plan
   The patient is a 39-year-old woman, with history of type I diabetes
   since age 14 months, glomerulonephritis, kidney transplants in [**2174**] and
   [**2177**], and a double kidney and pancreas transplant on [**2188-11-20**], who has
   newly diagnosed EBV-driven CNS lymphoma.
   # EBV-Derived CNS Lymphoma
   Identified by biopsy. Being treated per plan by Drs. [**Last Name (STitle) 2351**] and
   [**Name5 (PTitle) 4292**].
   - IV high-dose methotrexate, and leucovorin rescue started on the onc
   floor; we are now alkalinizing urine and initiating CVVH after HD was
   done on the floor
   - check LFTs for hepatoxicity
   - monitor for GI sx, HA, N/V/D, SOB, joint pain, myalgias in the
   setting of high-dose MTX
   - continue leucovorin rescue per heme/onc orders
   - bicarbonate per heme/onc orders
   - antiemetics, supportive care
   .
   # Encephalopathy
   Some of her neurologic impairment may be residual effects of EBV
   meningoencephalitis, but [**Doctor Last Name 10280**] outpatient note suggests more likely
   to be lymphoma effects. Dr.[**Name (NI) 10281**] outpatient note suggests
   prominent features are memory impairment and emotional lability. Dr.
   [**Last Name (STitle) 2351**] initial note suggested methylphenidate as a possible aid to
   improved cognition; at this point, agitation while on CVVH/HD has been
   a bigger issue than slowing per report of the floor team, and would
   hold off on a stimulant until this phase is completed.
   .
   # s/p Pancreas-kidney transplant: However, transplanted kidney has
   marginal function but she is still making urine. Estimated creatinine
   clearance has been 20-25 cc/min/m2. Pancreas working fine; diabetes no
   longer an issue.
   - hold CellCept evidently per earlier recs; check in w renal transplant
   re timing of restarting this
   - continue prednisone 4mg daily
   - cont sodium bicarb 1300 PO Q6
   - follow up renal recommendations; renal transplant team is following
   and managing CVVH
   .
   # Hypertension
   - continue Atenolol 100 daily
   - continue amlodipine 5mg daily
   .
   ICU Care
   Nutrition: Full
   Glycemic Control:
   Lines:
   PICC Line - [**2199-8-15**] 06:50 PM
   Dialysis Catheter - [**2199-8-15**] 06:50 PM
   Prophylaxis:
   DVT: SQ Hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Maintain on ICU pending onc recs
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);

2199-08-16 12:01:00 Physician Attending Progress Note
Chief Complaint: Lymphoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2199-8-15**] 06:50 PM
   Placed in IR [**2199-8-14**]
 DIALYSIS CATHETER - START [**2199-8-15**] 06:50 PM
   -HCO3- gtt stopped with urine alkaline
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Unknown;
   Morphine Hcl
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2199-8-16**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 94 (69 - 113) bpm
   BP: 146/91(104) {107/66(76) - 168/113(121)} mmHg
   RR: 16 (8 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 53 kg
   Height: 61 Inch
             Total In:
                                                                    755 mL
                                                                  2,207 mL
   PO:
             480 mL
   TF:
   IVF:
                                                                    755 mL
                                                                  1,727 mL
   Blood products:
   Total out:
                                                                    672 mL
                                                                  2,300 mL
   Urine:
                                                                    400 mL
                                                                  2,100 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                     83 mL
                                                                    -93 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, place, time, Movement: Not assessed, Tone: Not
   assessed, poor word finding
   Labs / Radiology
   110 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.7 mEq/L
   4 mg/dL
   103 mEq/L
   141 mEq/L
   24.7 %
        [image002.jpg]
                             [**2199-8-15**]  07:45 PM
                             [**2199-8-15**]  10:00 PM
                             [**2199-8-16**]  03:00 AM
                             [**2199-8-16**]  09:08 AM
   Hct
   24.7
   Cr
   0.8
   1.0
   Glucose
   119
   88
   110
   Other labs: Ca++:9.2 mg/dL, Mg++:1.4 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: Urine pH=8.0
   Assessment and Plan
   39 yo female with Type I DM--now s/p renal transplant x3 and pancreatic
   transplant x1 who has post transplant course now complicated by CNS
   Lymphoma with previous identification of EBV.  She is undergoing MTX
   treatment and in the setting of CVVH required for maintenance of renal
   protection patient is in ICU for maintenance of CVVH therapy in the
   setting of renal transplant.
   1) LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)-
   -Continue MTX per oncology service
   -Will continue CVVH per renal service
   -WIll continue HCO3- oral
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-8-15**] 06:50 PM
   Dialysis Catheter - [**2199-8-15**] 06:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2199-08-17 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - renal recs: cont CVVH, check MTX level at 3am. If <0.1, can stop
   CVVH. check CBC lytes and VBG. replete phos with K phos 30mM. hold MMF
   if WBC <3.0, otherwise on discharge restart MMF at 500mg [**Hospital1 7**]. No bicarb
   necessary as pt is on CVVH
   - onc recs: if MTX <0.1, can stop CVVH. wondering if pt can be
   electively admitted to [**Hospital Unit Name 1**] next time for CVVH. pt can be d/c'd home
   directly from [**Hospital Unit Name 1**] when not requiring CVVH
   - renal and onc had conflicting recs: renal wants to stop CVVH when MTX
   level <1, onc wants <0.1. Renal is thinking about long-session HD for
   next time but onc wants elective [**Hospital Unit Name 1**] admission next time. renal wanted
   to run even I/O, but onc wants to run negative.
   - cvvh continued as MTX level was 2.61
   - urine ph has been above 7.5
   - pt was teary eyed and anxious all night, relieved somewhat by ativan
   and chocolate, and comfort by nurse all night
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Unknown;
   Morphine Hcl
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-17**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.4
   HR: 113 (75 - 113) bpm
   BP: 160/82(101) {138/70(92) - 165/136(141)} mmHg
   RR: 15 (15 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 55 kg (admission): 53 kg
   Height: 61 Inch
             Total In:
                                                                  5,311 mL
                                                                  1,068 mL
   PO:
                                                                    960 mL
                                                                     80 mL
   TF:
   IVF:
                                                                  4,351 mL
                                                                    988 mL
   Blood products:
   Total out:
                                                                  6,054 mL
                                                                  1,444 mL
   Urine:
                                                                  4,050 mL
                                                                  1,000 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -743 mL
                                                                   -376 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   GEN: lying in bed, poor eye-contact, NAD
   [**Name2 (NI) 1824**]: PERRL, [**Name (NI) **], O/P clear
   Neck: supple, no LAD, no JVD
   CV: RRR no m/g/r
   PULM: CTAB no w/r/r
   ABD: S/NT/ND normoactive bowel sounds
   EXT: no c/c/e, fistula in LUE, no palpable thrill
   Neuro: AAOx3, CN II-XII intact, normal sensory and motor exam
   SKIN: mild alopecia
   Labs / Radiology
   378 K/uL
   8.1 g/dL
   108 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   5 mg/dL
   99 mEq/L
   135 mEq/L
   23.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2199-8-15**]  07:45 PM
                             [**2199-8-15**]  10:00 PM
                             [**2199-8-16**]  03:00 AM
                             [**2199-8-16**]  09:08 AM
                             [**2199-8-16**]  02:41 PM
                             [**2199-8-16**]  09:07 PM
                             [**2199-8-17**]  02:20 AM
   WBC
   9.2
   6.9
   Hct
   24.7
   27.5
   23.9
   Plt
   478
   378
   Cr
   0.8
   1.0
   1.0
   1.0
   1.0
   Glucose
   119
   88
   110
   119
   115
   108
   Other labs:
   PT / PTT / INR:11.4/25.5/0.9,
   ALT / AST:108/101, Alk Phos / T Bili:67/0.3, Albumin:3.5 g/dL, LDH:334
   IU/L,
   Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.3 mg/dL
   Methotrexate level: pending
   Micro: none
   Imaging: none
   Assessment and Plan
   The patient is a 39-year-old woman, with history of type I diabetes
   since age 14 months, glomerulonephritis, kidney transplants in [**2174**] and
   [**2177**], and a double kidney and pancreas transplant on [**2188-11-20**], who has
   newly diagnosed EBV-driven CNS lymphoma.
   # EBV-Derived CNS Lymphoma: Identified by biopsy. Being treated per
   plan by Drs. [**Last Name (STitle) 2351**] and [**Name5 (PTitle) 4292**].
   - IV high-dose methotrexate, and leucovorin rescue started on the onc
   floor; we are now alkalinizing urine and initiating CVVH after HD was
   done on the floor
   - monitor for GI sx, elevated LFTs, HA, N/V/D, SOB, joint pain,
   myalgias in the setting of high-dose MTX
   - continue leucovorin rescue per heme/onc orders
   - continue cvvh
   - d/c bicarbonate
   - antiemetics, supportive care
   - goal urine pH>7.5
   - check pm methotrexate level, can d/c pt if MTX<0.1
   .
   # Elevated LFT: LFT higher today compared to [**8-14**]. most likely
   secondary to methotrexate. Pt is hepatitis C positive since [**2185**]. [**Last Name (un) **]
   and B neg. Unclear if pt was ever treated for hepC.
   - increase leucovorin dose per Dr. [**Last Name (STitle) 2351**]
   - continue to monitor
   - will need to get hep C viral load checked as outpatient
   - If continues to rise, RUQ US to rule out cholecystitis or liver
   pathology
   .
   # Encephalopathy: Some of her neurologic impairment may be residual
   effects of EBV meningoencephalitis, but [**Doctor Last Name 10280**] outpatient note
   suggests more likely to be lymphoma effects. Dr.[**Name (NI) 10281**] outpatient
   note suggests prominent features are memory impairment and emotional
   lability. Dr. [**Last Name (STitle) 2351**] initial note suggested methylphenidate as a possible
   aid to improved cognition; at this point, agitation while on CVVH/HD
   has been a bigger issue than slowing per report of the floor team, and
   would hold off on a stimulant until this phase is completed.
   - continue to monitor mental status regularly
   .
   # s/p Pancreas-kidney transplant: transplanted kidney has marginal
   function but she is still making urine. Estimated creatinine clearance
   has been 20-25 cc/min/m2. Pancreas working fine; diabetes no longer an
   issue.
   - hold MMF if WBC <3.0, otherwise on discharge restart MMF at 500mg [**Hospital1 7**]
   - continue prednisone 4mg daily
   - d/c sodium bicarb 1300 PO Q6
   - follow up renal recommendations; renal transplant team is following
   and managing CVVH
   .
   # Hypertension:
   - continue Atenolol 100 daily
   - continue amlodipine 5mg daily
   .
   # Type I DM: s/p kidney / pancreas double transplant. DM not an issue
   any more
   - not on ISS, and glucose wnl
   - continue to monitor glucose
   .
   # Anxiety:
   - ativan prn
   - SW consult if pt goes to floor
   ICU Care
   Nutrition: Full
   Glycemic Control:  not on ISS, glucose normal
   Lines:
   PICC Line - [**2199-8-15**] 06:50 PM
   Dialysis Catheter - [**2199-8-15**] 06:50 PM
   Prophylaxis:
   DVT: SQ Hep
   Stress ulcer: PPI
   VAP:  none indicated
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition: can discharge from [**Hospital Unit Name 1**] after MTX is <0.1

2199-08-17 12:54:00 Physician Attending Progress Note
Chief Complaint: CNS lymphoma on MTX requiring CVVH for renal
   protection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   39 yo f with IDDM s/p renal/pancreas tx, Hep C recently dx'd with EBV
   associated CNS lymphoma, on MTX with CVVH/urine alkalinization
   24 Hour Events:
   Continued CVVH
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Unknown;
   Morphine Hcl
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-17**] 12:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 93 (87 - 113) bpm
   BP: 158/97(112) {138/70(92) - 176/136(141)} mmHg
   RR: 24 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 53 kg
   Height: 61 Inch
             Total In:
                                                                  5,311 mL
                                                                  2,362 mL
   PO:
                                                                    960 mL
                                                                    320 mL
   TF:
   IVF:
                                                                  4,351 mL
                                                                  2,042 mL
   Blood products:
   Total out:
                                                                  6,054 mL
                                                                  3,133 mL
   Urine:
                                                                  4,050 mL
                                                                  2,450 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -743 mL
                                                                   -771 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   8.1 g/dL
   378 K/uL
   108 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.3 mEq/L
   5 mg/dL
   99 mEq/L
   135 mEq/L
   23.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2199-8-15**]  07:45 PM
                             [**2199-8-15**]  10:00 PM
                             [**2199-8-16**]  03:00 AM
                             [**2199-8-16**]  09:08 AM
                             [**2199-8-16**]  02:41 PM
                             [**2199-8-16**]  09:07 PM
                             [**2199-8-17**]  02:20 AM
   WBC
   9.2
   6.9
   Hct
   24.7
   27.5
   23.9
   Plt
   478
   378
   Cr
   0.8
   1.0
   1.0
   1.0
   1.0
   Glucose
   119
   88
   110
   119
   115
   108
   Other labs: PT / PTT / INR:11.4/25.5/0.9, ALT / AST:108/101, Alk Phos /
   T Bili:67/0.3, Albumin:3.5 g/dL, LDH:334 IU/L, Ca++:8.3 mg/dL, Mg++:1.5
   mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: MTX level 0.15
   Assessment and Plan
 INEFFECTIVE COPING
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   39 yo female with DM1 s/p renal and pancreas tx recent diagnosed with
   EBV ascoiated CNS lymphoma
   On MTX per Onc and in [**Hospital Unit Name 1**] for CVVH therapy in the setting of renal
   transplant requiring additional renal protection
   *MTX levels still high- per Onc, need goal <0.1
   *Additional leukovorin due to elevated LFT's
   *CVVH per renal
   Repeat MTX level this afternoon with discharge home if levels
   demonstrate adequate clearance
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-8-15**] 06:50 PM
   Dialysis Catheter - [**2199-8-15**] 06:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU; will recheck MTX level this afternoon
   Total time spent: